Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
aphasia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ yo man who presented after MVC as a code
stroke.

Per fiancée, he traveled yesterday, returned at midnight, ate
dinner normally, woke up normally this morning. He was last seen
normal at 11 am. He was supposed to be out running errands 
today.
When the fiancée returned home, she found the door unlocked, the
attic stairs down and the attic light on, all of which is
unusual. The patient was in an MVC at approx. 12:15 pm in
___ the fiancée does not know why he would be in that
area.

He was taken to ___ at approx. 12:45 pm,
where CT head/chest/abd/pelvis was negative for bleeding or 
major
trauma. Per OSH note, he was found after having driven off the
road. He had left head and eye deviation, was globally aphasic,
with right facial droop, RUE ___, RLE ___, and no grimace to
noxious on the right. Toes mute on right and down on left. No 
tPA
given due to unclear time of stroke onset, history of trauma and
concern for petechial hemorrhage on CT head.

He was transferred to ___ ED for further care.

In the ED, the patient had a CT and CTA head/neck that showed
infarcts of different ages (acute, subacute, and chronic) and no
large vessel cutoffs that might be amenable to angio
intervention.

ROS unable to obtain - patient mute
 
Past Medical History:
Per report, prior TIA ___ years ago (symptoms of confusion -
unclear where to sign paperwork, sat on food tray, had some
dysarthria and difficulty with fluent language) - fiancée thinks
imaging was negative

Patient also thinks he may have had a TIA ___ years ago, unknown
symptoms.
 
Social History:
___
Family History:
- unknown
 
Physical Exam:
EXAM ON ADMISSION
=================

Vitals:
 T= 97.7F, BP= 148/81, HR= 63, RR= 14, SaO2= 97%
 ___: Awake, NAD.
 HEENT: NC/AT, MMM
 Neck: in hard C collar.
 Pulmonary: CTABL
 Cardiac: RRR, no murmurs
 Abdomen: soft, nontender, nondistended
 Extremities: no edema, pulses palpated
 Skin: no rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, mute. Follows some simple commands 
(stick
out tongue, squeeze and release left hand) but not others (close
eyes, show teeth, squeeze and release right hand). Unable to
mimic reliably.

-Cranial Nerves:
 I: Olfaction not tested.
 II: right pupil 3mm, left 2.5mm, both briskly reactive. 
Evidence
of cataracts bilaterally. R visual field cut.
 III, IV, VI: EOMI without nystagmus.
 V: unable to assess
VII: R NLFF with decreased muscle activation on smiling 
 VIII: Hearing grossly intact.
 IX, X: unable to assess.
 XI: unable to assess.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, tone throughout. R pronator drift. Appears
to have R distal>proximal weakness in the arm. Appears to be 
full
strength in L arm and symmetric strength in BLE.
  
 -DTRs:
brisk throughout

- ___ response was extensor on right, mute on left.
 - Pectoralis Jerk was present, and Crossed Adductors are
present. 
  
 -Sensory: No response to noxious in right arm/leg. Withdraws to
noxious on left side. 

-Coordination: Unable to formally assess. Patient attempts to 
sit
and does not have truncal ataxia.

-Gait: not assessed.

EXAM ON DISCHARGE :
====================
 Neurologic:
 -Mental Status: Alert, occasionally producing sounds and was 
able to say ___ and "no", was able to to sing along "twinkle 
twinkle ". Follows some simple axial commands (stickout tongue, 
show your teeth , close eyes) but not appendicular commands. 
Today he was able to answer questions by reading choices on the 
Ipad , ___, ___. When shown a Pen and asked 
what it was with choices to read on Ipad he pointed to pen, but 
when single letters were written om Ipad he could not choose the 
right ones when asked. He was also able to write his name. 

-Cranial Nerves: R NLFF with decreased muscle activation on 
smiling, tongue in midline.  
 
-Motor: Normal bulk, tone throughout. R pronator drift. 
Continues to have R distal more than proximal weakness in the 
arm. Appears to be full
strength in L arm and symmetric strength in BLE.
-Gait: able to walk independently with a normal gait.
 
Pertinent Results:
LABS ON ADMISSION
=================
___ 03:15PM BLOOD WBC-11.0* RBC-4.08* Hgb-12.7* Hct-39.1* 
MCV-96 MCH-31.1 MCHC-32.5 RDW-13.4 RDWSD-47.6* Plt ___
___ 03:15PM BLOOD Neuts-83.6* Lymphs-10.7* Monos-4.3* 
Eos-0.4* Baso-0.5 Im ___ AbsNeut-9.19* AbsLymp-1.17* 
AbsMono-0.47 AbsEos-0.04 AbsBaso-0.06
___ 03:15PM BLOOD ___ PTT-27.5 ___
___ 03:15PM BLOOD Plt ___
___ 03:15PM BLOOD Glucose-112* UreaN-16 Creat-0.9 Na-140 
K-3.9 Cl-109* HCO3-24 AnGap-11
___ 03:15PM BLOOD ALT-12 AST-13 AlkPhos-50 TotBili-0.5
___ 03:15PM BLOOD cTropnT-<0.01
___ 03:15PM BLOOD Albumin-3.8 Calcium-8.7 Phos-1.8* Mg-1.8
___ 03:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:15PM BLOOD Glucose-105 Na-139 K-3.7 Cl-108 
calHCO3-24

PERTINENT IMAGING
=================
#1. ___ CT BRAIN PERFUSION: 
1. Peripheral hypodensity in the left parietal lobe not 
significantly changed from prior CT performed at 12:09 
consistent with an infarct of uncertain chronicity, likely 
subacute to chronic. If clinically indicated recommend MRI to 
further evaluate chronicity. 
2. Subtle loss of gray-white differentiation in the superior 
posterior left frontal lobe with associated paucity of 
vascularity in the distribution of the superior left M2 segments 
and increased mean transit time, decreased blood flow in 
decreased blood volume compatible with infarct with potentially 
small surrounding ischemic penumbra although it is difficult to 
fully evaluate the extent of the ischemic core. 
3. The remaining vessels of the circle of ___ and their 
principal  intracranial branches appear patent. 
4. 5 mm ground-glass nodule in the left upper lobe.  While this 
is likely 
infectious or inflammatory in etiology, per ___ 
criteria for ___ of pulmonary nodules, recommend followup 
CT in 3 months. 

#2. ___ CT TORSO W/O CONTRAST: 
No acute sequelae of trauma. Partially motion degraded exam. 

#3. ___ MR HEAD W/O CONTRAST:
1.  Study is mildly degraded by motion. 
2. Acute to subacute left frontal MCA distribution superior 
gyrus, frontal 
operculum and superior insular cortex infarct with no definite 
evidence of 
hemorrhagic conversion or mass effect. 
3. Posterior left temporal encephalomalacia and chronic blood 
products 
suggestive of remote infarction. 
4.  Paranasal sinus disease concerning for acute sinusitis as 
described. 
5. Approximately 1.7 x 1 cm probable Tornwaldt cyst. 

#4. ___ BILAT LOWER EXT VEINS:
No evidence of deep venous thrombosis in the right or left lower 
extremity veins. 

#5. ___ ECHO:
Normal biventricular cavity sizes with preserved global 
biventricular systolic function. No definite structural cardiac 
source of embolism identified.

#6. ___ MRV PELVIS W&W/O CONTRAST: 
No evidence for deep venous thrombosis in the pelvis or lower 
abdomen.
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman who presented from an OSH 
with history of right hemiplegia, hemisensory loss, and global 
aphasia consistent with a left MCA ischemic infarct.

The etiology of his stroke was thought to be embolic from a 
proximal source given findings of his acute LMCA stroke as well 
as a more chronic appearing left temporoccipital stroke. There 
was no evidence of atherosclerotic disease on CTA H&N.  
Telemetry x 5 days did not show arrhythmia.  A paradoxical 
embolus was also considered given history of swollen lower 
extremity after a plane trip 10 days prior to presentation, 
though ___ and MRV were negative for a clot and TTE did not 
show PFO/ASD.  We recommended he have a TEE as an inpatient but 
he and his fiancée have decided to either defer this to the 
outpatient setting or defer this entirely. Also recommend ___ 
of heart monitoring x 28 days to rule out paroxysmal afib.  If 
there is afib, we will switch from ASA 81 to apixaban or other 
NOAC.

In consideration of a malignancy/hypercoagulable state, Ddimer 
was 494; less than the upper limit of normal.  CT torso (non 
contrast, indication trauma after MVA) was negative.  CTA showed 
a 5mm ground glass opacity in the left upper lobe.  This was 
discussed with our radiology colleagues.  CT chest followup 
needed in 3 months.  Also, could consider hypercoagulable panel 
(Prothrombin gene mutation, Factor V Leiden, lupus 
anticoagulant, cardiolipin antibody, protein c/s, B 2 
glycoprotein) on an outpatient basis as this was not done while 
inpatient.

___, OT, and SLP were consulted. OT recommended discharge to 
rehab given profound communication deficits. 

===================================
TRANSITIONAL ISSUES: 
1) Needs Transesophageal echo to rule out PFO/ASD after hospital 
discharge.  Fiancee will arrange and knows the contact for our 
echo lab if she prefers to have this done here rather than in 
___.
2) Needs 28 day ___ event monitor.
3) Recommend hypercoagulable workup (see above).
4) Needs CT chest within 3 months to re-eval 5mm ground glass 
opacity in left upper lobe of lung as seen on CTA neck.
5) If atrial fibrillation seen on telemetry, neurologist should 
be notified as he will need anticoagulation, likely with 
apixiban.
===================================
 
Medications on Admission:
none
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Left middle cerebral artery ischemic stroke
- Aphasia
- s/p motor vehicle accident

 
Discharge Condition:
Mental Status: aphasic.
Level of Consciousness: Alert and interactive nonverbally.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ from an outside hospital after you 
had a motor vehicle accident.  You were found to have 
right-sided weakness and language deficits.  Your brain imaging 
showed that you had a stroke in the left side of your brain 
affecting mostly your language area.  The etiology of your 
stroke remains unclear, but we are most suspicious for an 
intermittent abnormal heart rhythm or a small hole in your 
heart. You will require further heart monitoring at rehab. You 
will also need an outpatient transesophageal echocardiogram, 
which you should arrange with your PCP.

You had multiple scans of your body to look for trauma, and 
fortunately there was none.  

You have been evaluated by speech and physical therapy and given 
your significant language deficit you will benefit from 
___ rehab.

Best wishes, 
The ___ Stroke Team  
 
Followup Instructions:
___